### PR TITLE
feat: add missing lemmas about `insertMany` and `get?` for container types

### PR DESCRIPTION
**Pull request by datokrat**
This PR adds missing the lemmas `ofList_eq_insertMany_empty`, `get?_eq_some_iff`, `getElem?_eq_some_iff` and `getKey?_eq_some_iff` to all container types.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-10247](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10247) has successfully built against this PR. (2025-09-04 15:15:03) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17466503654)
- ✅ Mathlib branch [lean-pr-testing-10247](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10247) has successfully built against this PR. (2025-09-05 12:13:39) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17491226779)

File: src/Std/Data/Internal/List/Associative.lean [hunk 1]
```diff
@@ -884,6 +896,15 @@ theorem getKey_cons [BEq α] {l : List ((a : α) × β a)} {k a : α} {v : β k}
   · rfl
   · exact getKey?_eq_some_getKey _
 
+theorem getKey?_eq_some_iff' [BEq α] [EquivBEq α] {l : List ((a : α) × β a)} {k k'} :
+    getKey? k l = some k' ↔ ∃ h, getKey k l h = k' := by
+  by_cases h : containsKey k l
+  · simp [h, getKey?_eq_some_getKey]
+  · simp only [h]
+    simp only [containsKey_eq_isSome_getKey?, Bool.not_eq_true, Option.isSome_eq_false_iff,
+    Option.isNone_iff_eq_none] at h
```
Comment (Rob23oba) [inline src/Std/Data/Internal/List/Associative.lean]: obligatory indentation nitpick :-)
```suggestion
    simp only [containsKey_eq_isSome_getKey?, Bool.not_eq_true, Option.isSome_eq_false_iff,
      Option.isNone_iff_eq_none] at h
```

Comment (datokrat) [reply src/Std/Data/Internal/List/Associative.lean]: Love it!
